US08877934B2
Step A: 4-Chloro-2-methoxy-quinoline
To a solution of (2.5 g, 12.6 mmol) 2,4-dichloro-quinoline in anhydrous toluene (20 ml) was added a suspension of solid sodium methoxide (2.5 g, 46.3 mmol) in anhydrous toluene (20 ml). The mixture was stirred under reflux for 16 hours and then allowed to cool to room temperature. The solid that had formed was filtered off and washed with 50 ml toluene. The filtrate was evaporated to dryness under reduced pressure to yield a red solid (2.1 g, 10.8 mmol, 86%). MS (ES) m/z=193.1 [M+H]+.

reactant | 2,4-dichloro-quinoline | 12.6 mmol, 2.5 g | ClC1=NC2=CC=CC=C2C(=C1)Cl | C9H5Cl2N
reactant | sodium methoxide | 46.3 mmol, 2.5 g | C[O-].[Na+]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Chloro-2-methoxy-quinoline | 10.8 mmol, 2.1 g, 86% | ClC1=CC(=NC2=CC=CC=C12)OC | C10H8ClNO
